US06492383B1
(1H-Indol-5-yl)-(6-{4-[(3-methoxy-propylamino)-methyl]-phenyl}-thieno[3,2-d]pyrimidin-4-yl)-amine
The title compound was prepared from 3-methoxypropylamine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 160-175° C.; LC-MS: 444 (MH+); HPLC RT: 3.92 minutes.

reactant | 3-methoxypropylamine | COCCCN | C4H11NO
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | (1H-Indol-5-yl)-(6-{4-[(3-methoxy-propylamino)-methyl]-phenyl}-thieno[3,2-d]pyrimidin-4-yl)-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)CNCCCOC | C25H25N5OS
